US04594425
A. 2-bromomethyl benzofuran
A mixture of 2-methylbenzofuran (2.0 g), N-bromosuccinimide (2.7 g) and carbon tetrachloride is heated at reflux overnight. The reaction is filtered and the solvent is removed in vacuo giving 3.8 g (52% monobrominated) of product (62% yield).

reactant | 2-methylbenzofuran | 2.0 g | CC=1OC2=C(C1)C=CC=C2 | C9H8O
reactant | N-bromosuccinimide | 2.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl benzofuran | 62% yield | BrCC=1OC2=C(C1)C=CC=C2 | C9H7BrO
